US05306816
A solution of (3S,4S)-1-[1-(allyloxycarbonyl)-1-(triphenylphosphoranediyl)methyl]-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(methylthio)thiocarbonyl}ethyl]-2-oxoazetidine (325 mg) in toluene (3 ml) was heated under reflux for 4.5 hours. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography [ethyl acetate-hexane (1:3, V/V)] to afford allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (164 mg).

reactant | (3S,4S)-1-[1-(allyloxycarbonyl)-1-(triphenylphosphoranediyl)methyl]-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(methylthio)thiocarbonyl}ethyl]-2-oxoazetidine | 325 mg | C(C=C)OC(=O)C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1[C@@H](C)C(=S)SC)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C38H48NO4PS2Si
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | allyl (4R,5S,6S)-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-3-methylthio-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 164 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)SC)C | C20H33NO4SSi
